US07884109B2
(R)-2-(1,2,3,4-Tetrahydronaphthalen-1-yl)isoindoline-1,3-dione.
To a solution of (R)-1,2,3,4-tetrahydro-1-naphthylamine (6.0 g) in THF (150 mL) at 0° C. was added TEA (18.5 mL) and phthaloyl chloride (8.2 g), and the resultant mixture was stirred at room temperature overnight and 70° C. for 3 h. The mixture was diluted with CH2Cl2, washed with saturated NaHCO3, dried over MgSO4, and concentrated in vacuo. The resulting crude was chromatographed on silica gel (EtOAc/hexane, 5/95 to 30/70) to afford 8.2 g of the title compound.

reactant | (R)-1,2,3,4-tetrahydro-1-naphthylamine | 6.0 g | [C@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | phthaloyl chloride | 8.2 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-2-(1,2,3,4-Tetrahydronaphthalen-1-yl)isoindoline-1,3-dione | 8.2 g | [C@H]1(CCCC2=CC=CC=C12)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO2
